US04179277
A solution of 21.8 g (0.1 mol) of 4,5-dichloro-2-dichloromethylene-imidazole was added to a solution of 15 g (0.11 mol) of N-methyl-benzamide in 100 ml of dioxane. The mixture was then heated briefly to the boil and discharged into ice water. The oil which first precipitated out became solid after a few hours. After the product had been filtered off, washed with water and dried, 6.0 g (20% of theory) of N-benzoyl-N-methyl-4,5-dichloro-imidazole-2-carboxylic acid amide with a melting point of 168° C. (acetonitrile) were obtained.

reactant | 4,5-dichloro-2-dichloromethylene-imidazole | 0.1 mol, 21.8 g | ClC1=NC(N=C1Cl)=C(Cl)Cl | C4Cl4N2
reactant | N-methyl-benzamide | 0.11 mol, 15 g | CNC(C1=CC=CC=C1)=O | C8H9NO
reactant | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | N-benzoyl-N-methyl-4,5-dichloro-imidazole-2-carboxylic acid amide | 6.0 g, 20% | C(C1=CC=CC=C1)(=O)N(C(=O)C=1NC(=C(N1)Cl)Cl)C | C12H9Cl2N3O2
